### PR TITLE
feat(Probability/HasCondDistrib): characterize independence using conditional distributions

### PR DESCRIPTION
**Pull request by bocowgill**
This PR uses conditional distributions to characterize independence of two random variables.

It adds eight public declarations to `Mathlib/Probability/HasCondDistrib.lean`, which is the only file modified:

- `indepFun_iff_hasCondDistrib_const_of_hasLaw`: characterizes independence using a constant conditional-distribution kernel when the laws are specified.
- `indepFun_iff_hasCondDistrib_const`: specializes this characterization to the marginal laws `P.map X` and `P.map Y`.
- `IndepFun.hasCondDistrib_const`: the forward implication of the preceding equivalence.
- `HasCondDistrib.indepFun_of_const`: the reverse implication.
- `hasCondDistrib_condDistrib`: shows that the regular conditional distribution `condDistrib Y X P` satisfies `HasCondDistrib`.
- `hasCondDistrib_iff_condDistrib_ae_eq`: characterizes finite kernels satisfying `HasCondDistrib` by almost-everywhere equality with `condDistrib`.
- `indepFun_iff_condDistrib_ae_eq_const_of_hasLaw`: characterizes independence by almost-everywhere equality of `condDistrib` with the constant kernel at the specified law.
- `indepFun_iff_condDistrib_ae_eq_const`: specializes this characterization to the marginal laws.

The PR adds no new file and makes no change to the root `Mathlib.lean` imports.

---

### Motivation

These results provide a basic building block for formalizing randomized experiments and causal identification. The main result provides a starting point for later ignorability and conditional-independence results in causal inference.

### LLM disclosure

For theorem planning and Lean implementation, I substantially used Codex by OpenAI. I also used it for suggestions around naming and documentation, for iterating on the proofs, and for validating my commits locally.

I manually searched for the best locations and earlier results to build upon. I personally reviewed both the mathematical statements and Lean code (line-by-line), as well as the suggestions around naming and API choices. I also reviewed and confirmed that I can explain each step of the results (both Mathematics and Lean syntax).

To validate the change, I directly compiled the modified file and ran a targeted build. I also ran the style linter, and completed a full `lake build` and a full `lake test`.

Please note: This is one of my first mathlib contributions. I welcome corrections or suggestions about all aspects of this PR. I'm prepared to revise it as necessary, and to learn from the review.

### CODE REVIEW

**Comment by bocowgill** [comment]
LLM-generated

File: Mathlib/Probability/HasCondDistrib.lean [hunk 1]
```diff
@@ -62,6 +62,32 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
 
+/-- If two random variables are independent, then the conditional distribution of the second
+given the first is the constant kernel at its marginal distribution. -/
+lemma IndepFun.hasCondDistrib_const [IsFiniteMeasure P] (hXY : IndepFun X Y P)
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    HasCondDistrib Y X (Kernel.const 𝓧 (P.map Y)) P := by
+  constructor
+  · exact hX.prodMk hY
+  · rw [Measure.compProd_const]
+    exact hXY.map_prod_eq_prod_map_map hX hY
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean]:
```suggestion
  map_eq := by simpa [Measure.compProd_const] using hXY.map_prod_eq_prod_map_map hX hY
```
`HasLaw` is defined so that by default `fun_prop` will try to prove `aemeasurable`. As `fun_prop` succeeds in this case, we only need to prove `map_eq`.

File: Mathlib/Probability/HasCondDistrib.lean [hunk 2]
```diff
@@ -62,6 +62,32 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
+  rw [h.map_eq, Measure.compProd_const]
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
+distribution of the second given the first is the constant kernel at its marginal distribution. -/
+theorem indepFun_iff_hasCondDistrib_const [IsFiniteMeasure P]
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    IndepFun X Y P ↔
+      HasCondDistrib Y X (Kernel.const 𝓧 (P.map Y)) P :=
+  ⟨fun hXY ↦ hXY.hasCondDistrib_const hX hY, fun h ↦ h.indepFun_of_const⟩
+
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean]: Several comments.
1. I would prefer the notation `X ⟂ᵢ[P] Y` rather than `IndepFun X Y P`.
2. We have [ProbabilityTheory.indepFun_iff_hasLaw_prodMk_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/HasLaw.html#ProbabilityTheory.indepFun_iff_hasLaw_prodMk_prod), so I think we can shorten the proof a lot by using the following structure (can you fill in the proof? Each sorry should be solvable within two to three lines): 
  ```
  theorem indepFun_iff_hasCondDistrib_const_of_hasLaw [IsFiniteMeasure P] {μ : Measure 𝓧}
      {ν : Measure 𝓨} (hX : HasLaw X μ P) (hY : HasLaw Y ν P) :
      X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 ν) P := by
    sorry
  
  theorem indepFun_iff_hasCondDistrib_const [IsFiniteMeasure P]
      (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
      X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 (P.map Y)) P := by
    sorry
  ```
3. If you want the forward/backward directions of these lemmas and rename them to take advantage of the dot notations, you can use `alias`
```
alias ⟨IndepFun.hasCondDistrib_const, HasCondDistrib.indepFun_of_const⟩ := indepFun_iff_hasCondDistrib_const
```

File: Mathlib/Probability/Independence/CondDistrib.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+  {X : Ω → 𝓧} {Y : Ω → 𝓨}
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
+distribution of the second given the first is almost everywhere its marginal distribution. -/
+theorem indepFun_iff_condDistrib_ae_eq_const
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    IndepFun X Y P ↔
+      condDistrib Y X P =ᵐ[P.map X] Kernel.const 𝓧 (P.map Y) := by
+  rw [condDistrib_ae_eq_iff_measure_eq_compProd X hY, Measure.compProd_const,
+    indepFun_iff_map_prod_eq_prod_map_map hX hY]
```
Comment (CoolRmal) [inline Mathlib/Probability/Independence/CondDistrib.lean]: Similar to the structure I mentioned in the other comment, can you also have a `HasLaw` version for this theorem?

File: Mathlib/Probability/Independence/CondDistrib.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
+/-
+Copyright (c) 2026 Bo Cowgill. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bo Cowgill
+-/
+module
+
+public import Mathlib.Probability.HasCondDistrib
```
Comment (CoolRmal) [inline Mathlib/Probability/Independence/CondDistrib.lean]:
```suggestion
public import Mathlib.Probability.HasLaw
```

minimize imports

File: Mathlib/Probability/Independence/CondDistrib.lean [hunk 5]
```diff
@@ -0,0 +1,45 @@
...
+distributions.
+
+## Main results
+
+* `indepFun_iff_condDistrib_ae_eq_const`: two random variables are independent if and only if the
+  conditional distribution of the second given the first is almost everywhere its marginal
+  distribution.
+-/
+
+@[expose] public section
```
Comment (CoolRmal) [inline Mathlib/Probability/Independence/CondDistrib.lean]: This should be removed as no definition is introduced

```suggestion
public section
```

File: Mathlib/Probability/HasCondDistrib.lean (hunk 2 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Done in 949d50d015. I added indepFun_iff_hasCondDistrib_const_of_hasLaw, made indepFun_iff_hasCondDistrib_const its specialization, switched to the independence notation, and generated the directional declarations with the suggested alias.

File: Mathlib/Probability/Independence/CondDistrib.lean (hunk 3 above)
Comment (bocowgill) [reply Mathlib/Probability/Independence/CondDistrib.lean]: Done in 949d50d015. I added indepFun_iff_condDistrib_ae_eq_const_of_hasLaw and made the existing a.e.-measurable theorem its specialization.

File: Mathlib/Probability/Independence/CondDistrib.lean (hunk 4 above)
Comment (bocowgill) [reply Mathlib/Probability/Independence/CondDistrib.lean]: Done in 949d50d015. The file now imports Mathlib.Probability.HasLaw directly, and the targeted import/style linter passes.

File: Mathlib/Probability/Independence/CondDistrib.lean (hunk 5 above)
Comment (bocowgill) [reply Mathlib/Probability/Independence/CondDistrib.lean]: Done in 949d50d015. I changed @[expose] public section to public section.

**Comment by bocowgill** [comment]
@CoolRmal, I have implemented the review suggestions and resolved the threads. I also updated the branch from master, and CI is now green.
-awaiting-author

File: Mathlib/Probability/HasCondDistrib.lean [hunk 6]
```diff
@@ -62,6 +62,25 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
+  rw [indepFun_iff_hasLaw_prodMk_prod hX hY]
+  unfold HasCondDistrib
+  rw [← hX.map_eq, ← hY.map_eq, Measure.compProd_const]
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
+distribution of the second given the first is the constant kernel at its marginal distribution. -/
+theorem indepFun_iff_hasCondDistrib_const [IsFiniteMeasure P]
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 (P.map Y)) P := by
+  exact indepFun_iff_hasCondDistrib_const_of_hasLaw ⟨hX, rfl⟩ ⟨hY, rfl⟩
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean]:
```suggestion
    X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 (P.map Y)) P :=
  indepFun_iff_hasCondDistrib_const_of_hasLaw ⟨hX, rfl⟩ ⟨hY, rfl⟩
```
`by exact` is discouraged.

File: Mathlib/Probability/HasCondDistrib.lean [hunk 7]
```diff
@@ -62,6 +62,25 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
     rwa [Measure.snd_map_prodMk₀ h.aemeasurable_fst] at h_snd
 
+/-- Two random variables with specified laws are independent if and only if the conditional
+distribution of the second given the first is the constant kernel at its law. -/
+theorem indepFun_iff_hasCondDistrib_const_of_hasLaw [IsFiniteMeasure P]
+    {μ : Measure 𝓧} {ν : Measure 𝓨} (hX : HasLaw X μ P) (hY : HasLaw Y ν P) :
+    X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 ν) P := by
+  rw [indepFun_iff_hasLaw_prodMk_prod hX hY]
+  unfold HasCondDistrib
+  rw [← hX.map_eq, ← hY.map_eq, Measure.compProd_const]
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean]:
```suggestion
  simp [indepFun_iff_hasLaw_prodMk_prod hX hY, HasCondDistrib, ← hX.map_eq, ← hY.map_eq, 
    Measure.compProd_const]
```

File: Mathlib/Probability/Independence/CondDistrib.lean [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+  rw [← hX.map_eq, condDistrib_ae_eq_iff_measure_eq_compProd X hY.aemeasurable,
+    Measure.compProd_const,
+    indepFun_iff_map_prod_eq_prod_map_map hX.aemeasurable hY.aemeasurable, hY.map_eq]
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
+distribution of the second given the first is almost everywhere its marginal distribution. -/
+theorem indepFun_iff_condDistrib_ae_eq_const
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    X ⟂ᵢ[P] Y ↔ condDistrib Y X P =ᵐ[P.map X] Kernel.const 𝓧 (P.map Y) := by
+  exact indepFun_iff_condDistrib_ae_eq_const_of_hasLaw ⟨hX, rfl⟩ ⟨hY, rfl⟩
```
Comment (CoolRmal) [inline Mathlib/Probability/Independence/CondDistrib.lean]:
```suggestion
    X ⟂ᵢ[P] Y ↔ condDistrib Y X P =ᵐ[P.map X] Kernel.const 𝓧 (P.map Y) := 
  indepFun_iff_condDistrib_ae_eq_const_of_hasLaw ⟨hX, rfl⟩ ⟨hY, rfl⟩
```

**Review by CoolRmal — COMMENTED** [review]
Actually I am a bit unsure whether you should create a new file. @EtienneC30 Do you have an opinion on this?

**Comment by EtienneC30** [comment]
I think everything can go in the `HasCondDistrib` file. Also it would be better to prove that under suitable assumptions `HasCondDistrib` is satisfied with the kernel being given by `condDistrib` and then deduce the `condDistrib` version from the `HasCondDistrib` one.

File: Mathlib/Probability/HasCondDistrib.lean (hunk 7 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, applied in aed8a39004. The proof of `indepFun_iff_hasCondDistrib_const_of_hasLaw` now uses the suggested `simp [...]` form.

File: Mathlib/Probability/HasCondDistrib.lean (hunk 6 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, applied in aed8a39004. The specialization `indepFun_iff_hasCondDistrib_const` is now written directly as a theorem term, without `by exact`.

File: Mathlib/Probability/Independence/CondDistrib.lean (hunk 8 above)
Comment (bocowgill) [reply Mathlib/Probability/Independence/CondDistrib.lean]: Thanks, applied in aed8a39004. After moving the theorem into `HasCondDistrib.lean`, `indepFun_iff_condDistrib_ae_eq_const` is now written directly as a theorem term, without `by exact`.

**Comment by bocowgill** [comment]
@EtienneC30 Thanks, addressed in aed8a39004. I moved all the new results into `Mathlib/Probability/HasCondDistrib.lean` and removed the separate file and root import. I added `hasCondDistrib_condDistrib`, showing that the canonical `condDistrib` kernel satisfies `HasCondDistrib`, and `hasCondDistrib_iff_condDistrib_ae_eq`, giving the a.e.-uniqueness characterization for finite kernels. The `condDistrib` independence characterization is now deduced from the `HasCondDistrib` characterization through this bridge.

File: Mathlib/Probability/HasCondDistrib.lean [hunk 9]
```diff
@@ -62,6 +74,64 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
+  indepFun_iff_hasCondDistrib_const
+
+section CondDistrib
+
+variable [StandardBorelSpace 𝓨] [Nonempty 𝓨] [IsFiniteMeasure P]
+
+/-- The regular conditional distribution of `Y` given `X` is a conditional distribution. -/
+lemma hasCondDistrib_condDistrib (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    HasCondDistrib Y X (condDistrib Y X P) P where
+  aemeasurable := hX.prodMk hY
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean:102]:
```suggestion
```
By default `fun_prop` tries to solve the goal.

File: Mathlib/Probability/HasCondDistrib.lean [hunk 10]
```diff
@@ -62,6 +74,64 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
+everywhere equal to the regular conditional distribution. -/
+theorem hasCondDistrib_iff_condDistrib_ae_eq [IsFiniteKernel κ]
+    (hX : AEMeasurable X P) (hY : AEMeasurable Y P) :
+    HasCondDistrib Y X κ P ↔ condDistrib Y X P =ᵐ[P.map X] κ := by
+  constructor
+  · intro h
+    exact condDistrib_ae_eq_of_measure_eq_compProd X hY h.map_eq
+  · intro h
+    exact ⟨hX.prodMk hY,
+      (hasCondDistrib_condDistrib hX hY).map_eq.trans (Measure.compProd_congr h)⟩
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean:115]:
```suggestion
    HasCondDistrib Y X κ P ↔ condDistrib Y X P =ᵐ[P.map X] κ where
  mp h := condDistrib_ae_eq_of_measure_eq_compProd X hY h.map_eq
  mpr h := ⟨by fun_prop, (hasCondDistrib_condDistrib hX hY).map_eq.trans (Measure.compProd_congr h)⟩
```
golf

File: Mathlib/Probability/HasCondDistrib.lean [hunk 11]
```diff
@@ -62,6 +74,64 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
+/-- Two random variables with specified laws are independent if and only if the conditional
+distribution of the second given the first is almost everywhere the constant kernel at its law. -/
+theorem indepFun_iff_condDistrib_ae_eq_const_of_hasLaw {μ : Measure 𝓧} {ν : Measure 𝓨}
+    (hX : HasLaw X μ P) (hY : HasLaw Y ν P) :
+    X ⟂ᵢ[P] Y ↔ condDistrib Y X P =ᵐ[μ] Kernel.const 𝓧 ν := by
+  let _ : IsFiniteMeasure ν := hY.isFiniteMeasure_iff.mp inferInstance
+  rw [← hX.map_eq, indepFun_iff_hasCondDistrib_const_of_hasLaw hX hY,
+    hasCondDistrib_iff_condDistrib_ae_eq hX.aemeasurable hY.aemeasurable]
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean:126]:
```suggestion
/-- Two `AEMeasurable` random variables are independent if and only if the conditional
```

File: Mathlib/Probability/HasCondDistrib.lean [hunk 12]
```diff
@@ -62,6 +74,64 @@ lemma HasCondDistrib.hasLaw_of_const [IsProbabilityMeasure P] {Q : Measure 𝓨}
...
 
+/-- Two random variables with specified laws are independent if and only if the conditional
+distribution of the second given the first is the constant kernel at its law. -/
+theorem indepFun_iff_hasCondDistrib_const_of_hasLaw [IsFiniteMeasure P]
+    {μ : Measure 𝓧} {ν : Measure 𝓨} (hX : HasLaw X μ P) (hY : HasLaw Y ν P) :
+    X ⟂ᵢ[P] Y ↔ HasCondDistrib Y X (Kernel.const 𝓧 ν) P := by
+  simp [indepFun_iff_hasLaw_prodMk_prod hX hY, HasCondDistrib, ← hX.map_eq, ← hY.map_eq,
+    Measure.compProd_const]
+
+/-- Two a.e.-measurable random variables are independent if and only if the conditional
```
Comment (CoolRmal) [inline Mathlib/Probability/HasCondDistrib.lean:85]:
```suggestion
/-- Two `AEMeasurable` random variables are independent if and only if the conditional
```

**Comment by CoolRmal** [comment]
I am concerned with the large import

**Comment by CoolRmal** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/aed8a3900437472bd9d242c8330e9ce8e1c3e58d?reference=2db45d1e6b1b8b52e30e11805251ba2abe420d60) for aed8a3900437472bd9d242c8330e9ce8e1c3e58d against 2db45d1e6b1b8b52e30e11805251ba2abe420d60 are in. No significant results found. @CoolRmal

- ✅ `build//instructions`: **-4.7G** (**-0.00%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Probability.HasCondDistrib//instructions`: **+1.1G** (**+10.72%**)

**Comment by CoolRmal** [comment]
I guess it is fine to only have large import in this single file?
maintainer merge

File: Mathlib/Probability/HasCondDistrib.lean (hunk 9 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, I removed the explicit `aemeasurable` field and now let `fun_prop` supply it automatically. This is in commit 4f5176a.

File: Mathlib/Probability/HasCondDistrib.lean (hunk 10 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, I applied this golf and rewrote the equivalence using `where`, `mp`, and `mpr`. This is in commit 4f5176a.

File: Mathlib/Probability/HasCondDistrib.lean (hunk 11 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, I updated the docstring for `indepFun_iff_condDistrib_ae_eq_const` to refer to `AEMeasurable` random variables. This is in commit 4f5176a.

File: Mathlib/Probability/HasCondDistrib.lean (hunk 12 above)
Comment (bocowgill) [reply Mathlib/Probability/HasCondDistrib.lean]: Thanks, I updated the docstring for `indepFun_iff_hasCondDistrib_const` to refer to `AEMeasurable` random variables. This is in commit 4f5176a.
